US07678818B2
b) Preparation of lithium 5-cyclopropylamino-thiazole-4-carboxylate
198 mg of 5-cyclopropylamino-thiazole-4-carboxylic acid ethyl ester (0.93 mmol) were dissolved in a 3:1 mixture of THF/methanol (2 ml) and 1.4 ml of a 1N LiOH-solution were added. The reaction mixture was stirred at RT for 3 days, then concentrated in vacuo and the remaining residue was dried. This gave 191 mg of a yellow solid containing the crude title compound (contaminated with excess of lithium hydroxide) that was used in the following step without further purification. MS (ISP) 182.9 (M−H)−.

reactant | 5-cyclopropylamino-thiazole-4-carboxylic acid ethyl ester | 0.93 mmol, 198 mg | C(C)OC(=O)C=1N=CSC1NC1CC1 | C9H12N2O2S
reactant | LiOH | 1N | [Li+].[OH-]
solvent | THF methanol | 2 ml | C1CCOC1.CO
product | lithium 5-cyclopropylamino-thiazole-4-carboxylate | C1(CC1)NC1=C(N=CS1)C(=O)[O-].[Li+] | InChI=1S/C7H8N2O2S.Li/c10-7(11)5-6(12-3-8-5)9-4-1-2-4;/h3-4,9H,1-2H2,(H,10,11);/q;+1/p-1
